US05532367
A stirring solution of 1.8 grams (0.011 mole) of pyridine-sulfur trioxide complex [prepared by the method of E. E. Gilbert, Chem. Rev., 62, 551-555 (1962)] in 25 mL of methylene chloride is cooled to -60° C., and a solution of 2.0 grams (0.024 mole) of dimethyl sulfoxide in 5 mL of methylene chloride is added dropwise during a 5 minute period. Upon completion of addition, the reaction mixture is stirred at -60° C. for about 10 minutes. After this time a solution of 3.2 grams (0.10 mole) of 2,4-diamino-6-(2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-yl)pteridine in 10 mL of methylene chloride is added dropwise during a 5 minute period. Upon completion of addition, the reaction mixture is again stirred at -60° C. for about 10 minutes, and then 5.1 grams (0.050 mole) of triethylamine is added dropwise during a 5 minute period. The reaction mixture is then allowed to warm to ambient temperature. After this time 30 mL of water is added, and the mixture is stirred for about 10 minutes. The aqueous layer is separated and extracted with about 20 mL of methylene chloride. The extract is combined with the organic layer, and the combination is concentrated under reduced pressure, yielding 2,4-diamino-6-(2,3-dihydro-2,2-dimethyl-3-benzofuranon-7-yl)pteridine.

reactant | dimethyl sulfoxide | 0.024 mole, 2.0 grams | CS(=O)C | C2H6OS
reactant | 2,4-diamino-6-(2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-yl)pteridine | 0.10 mole, 3.2 grams | NC1=NC2=NC=C(N=C2C(=N1)N)C1=CC=CC=2C(C(OC21)(C)C)O | C16H16N6O2
reactant | triethylamine | 0.050 mole, 5.1 grams | C(C)N(CC)CC | C6H15N
reactant | water | 30 mL | O | H2O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,4-diamino-6-(2,3-dihydro-2,2-dimethyl-3-benzofuranon-7-yl)pteridine | NC1=NC2=NC=C(N=C2C(=N1)N)C1=CC=CC=2C(C(OC21)(C)C)=O | C16H14N6O2
